US07763731B2
4-(3-Fluoro-5-nitro-phenoxy)-benzoic acid methyl ester
To a solution of 4-hydroxybenzoic acid methyl ester (3.00 g, 19.5 mmol) in DMSO (30 ml) was added t-BuOK (2.56 g, 21.5 mmol) at room temperature and the mixture was stirred at room temperature for 30 minutes under N2 flow. 1,3-Difluoro-5-nitrobenzene (2.34 ml, 20.5 mmol) was added dropwise at room temperature. The mixture was heated at 90° C. for 2 hours under N2 flow. The reaction mixture was cooled to room temperature, diluted with H2O, and then extracted with EtOAc. The extract washed with H2O and brine, dried over MgSO4, filtered and concentrated under vacuum giving the title compound as a dark brown oil, which was crystallized with i-Pr2O. The crystals were collected by filtration to give the desired product as pale yellow crystal (1.92 g, 40%). The filtrate gave additional product (1.46 g, 30%) as pale yellow crystal by silica gel column chromatography eluting with 4:1 EtOAc/hexane.

reactant | 4-hydroxybenzoic acid methyl ester | 19.5 mmol, 3.00 g | COC(C1=CC=C(C=C1)O)=O | C8H8O3
reactant | t-BuOK | 21.5 mmol, 2.56 g | CC(C)(C)[O-].[K+]
reactant | 1,3-Difluoro-5-nitrobenzene | 20.5 mmol, 2.34 ml | FC1=CC(=CC(=C1)[N+](=O)[O-])F | C6H3F2NO2
solvent | DMSO | 30 ml | CS(=O)C | C2H6OS
solvent | H2O | O | H2O
product | 4-(3-Fluoro-5-nitro-phenoxy)-benzoic acid methyl ester | COC(C1=CC=C(C=C1)OC1=CC(=CC(=C1)[N+](=O)[O-])F)=O | C14H10FNO5
